US08283475B2
N-[2-(6-Chloro-4-hydroxymethyl-2H-benzotriazol-2-yl)-1-cyano-1-methylethyl]-4-trifluoromethoxybenzamide (compound No 1.081)
To a solution of N-[2-(6-Chloro-4-formyl-2H-benzotriazol-2-yl)-1-cyano-1-methylethyl]-4-trifluoromethoxybenzamide (150 mg) in ethanol (2 mL) cooled in an ice bath was added sodium triacetoxyborohydride (0.22 g). After 6 hour at room temperature, more sodium triacetoxyborohydride (0.29 g) was added and the mixture stirred overnight at room temperature. The mixture was quenched with water, extracted with ethyl acetate. The organic layer was dried over sodium sulfate, filtered and concentrated under reduced pressure to give a residue that was purified by chromatography (SiO2, heptane/EA) to afford the title compound as a white solid (100 mg, 67%). Rf=0.4 (3:1 EA/heptane). MS (ES): M/Z [M+H]=454. 1H NMR: (400 MHz, CHLOROFORM-d): 1.87 (s, 3H), 5.06 (s, 2H), 5.15 (d, J=13.8 Hz, 1H), 5.43 (d, J=13.8 Hz, 1H), 7.33 (d, J=8.8 Hz, 2H), 7.43 (dt, J=1.8, 1.0 Hz, 1H), 7.47 (s, 1H), 7.80 (d, J=1.8 Hz, 1H) and 7.88 (d, J=8.8 Hz, 2H). 19F NMR (376 MHz, CHLOROFORM-d): −58.1 (s, 3F).

reactant | N-[2-(6-Chloro-4-formyl-2H-benzotriazol-2-yl)-1-cyano-1-methylethyl]-4-trifluoromethoxybenzamide | 150 mg | ClC=1C=C(C=2C(=NN(N2)CC(C)(C#N)NC(C2=CC=C(C=C2)OC(F)(F)F)=O)C1)C=O | C19H13ClF3N5O3
reactant | sodium triacetoxyborohydride | 0.22 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | sodium triacetoxyborohydride | 0.29 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | ethanol | 2 mL | C(C)O | C2H6O
product | N-[2-(6-Chloro-4-hydroxymethyl-2H-benzotriazol-2-yl)-1-cyano-1-methylethyl]-4-trifluoromethoxybenzamide | 100 mg, 67% | ClC=1C=C(C=2C(=NN(N2)CC(C)(C#N)NC(C2=CC=C(C=C2)OC(F)(F)F)=O)C1)CO | C19H15ClF3N5O3
